US05021564
The pH of the ceftazidime solution was lowered to 4.5 with 4M phosphoric acid, and the solution was seeded. The solution was stirred for 21/2 hr at 0-5° C., during which the pH had risen to 4.7 and a large amount of crystals had formed. Phosphoric acid (4M) was then added dropwise over a 1 hr period to achieve a pH of 3.7. More acid was added dropwise over the next 1/2 hr to maintain this pH. After the pH was stabilized, the slurry was stirred slowly in an ice bath for 1 hr. The crystals were filtered and washed twice with cold deionized water (2×30 mL) and then with cold acetone (30 mL). The product was dried overnight at ambient temperature at a pressure of about 80 mm Hg. This procedure gave 13.57 g of ceftazidime pentahydrate. The assay was 85.4%, and the corrected yield was 77.3%. Another 11.1% yield was obtained from the combined mother liquors and washes.

reactant | ceftazidime | CC(C)(C(=O)O)O/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)C[N+]=4C=CC=CC4)C(=O)[O-] | C22H22N6O7S2
reactant | phosphoric acid | 4M | P(O)(O)(O)=O | H3O4P
reactant | Phosphoric acid | 4M | P(O)(O)(O)=O | H3O4P
product | ceftazidime pentahydrate | 13.57 g, yield was 77.3% | CC(C)(C(=O)O)O/N=C(\C1=CSC(=N1)N)/C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)C[N+]4=CC=CC=C4)C(=O)[O-].O.O.O.O.O | InChI=1S/C22H22N6O7S2.5H2O/c1-22(2,20(33)34)35-26-13(12-10-37-21(23)24-12)16(29)25-14-17(30)28-15(19(31)32)11(9-36-18(14)28)8-27-6-4-3-5-7-27;;;;;/h3-7,10,14,18H,8-9H2,1-2H3,(H4-,23,24,25,29,31,32,33,34);5*1H2/b26-13+;;;;;/t14-,18-;;;;;/m1...../s1
